US06515124B2
Manganese dioxide (5.48 g, 62.9 mmol) and dichloromethane (20 mL) were added to a solution of 3,5-dimethylisoxazole-4-methanol (prepared according to the literature procedure: Saucy, G.; Scott, J. W. U.S. Pat. No. 3,984,428 Oct. 5, 1976; 1.00 g, 7.9 mmol) in dichloromethane (25 mL). The mixture was stirred at room temperature overnight, then filtered through Celite®, evaporated under reduced pressure and the residual material was chromatographed over silica gel (10% ethyl acetate/hexanes) to give 3,5-dimethylisoxazole-4-carboxaldehyde (365 mg, 37% yield) as a colorless solid.

reactant | 3,5-dimethylisoxazole-4-methanol | CC1=NOC(=C1CO)C | C6H9NO2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | Manganese dioxide | 62.9 mmol, 5.48 g | [O-2].[O-2].[Mn+4]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3,5-dimethylisoxazole-4-carboxaldehyde | 365 mg, 37% yield | CC1=NOC(=C1C=O)C | C6H7NO2
